US07368578B2
A mixture of [5-({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenoxy}methyl)-2-phenyl-1,3-oxazol-4-yl]methanol (3.10 g), activated manganese dioxide (10.0 g) and tetrahydrofuran (300 mL) was stirred at room temperature for 15 hrs. Manganese dioxide was removed by filtration, and the filtrate was concentrated. The obtained crystals were collected by filtration and washed with hexane to give 5-({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenoxy}methyl)-2-phenyl-1,3-oxazole-4-carbaldehyde (2.75 g, yield 89%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 127-128° C.

reactant | [5-({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenoxy}methyl)-2-phenyl-1,3-oxazol-4-yl]methanol | 3.10 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(OCC2=C(N=C(O2)C2=CC=CC=C2)CO)C=C1 | C28H24N2O5
catalyst | manganese dioxide | 10.0 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 5-({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenoxy}methyl)-2-phenyl-1,3-oxazole-4-carbaldehyde | 2.75 g, yield 89% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(OCC2=C(N=C(O2)C2=CC=CC=C2)C=O)C=C1 | C28H22N2O5
